### PR TITLE
Ostrowski(Q) -- bounded case

### PR DESCRIPTION
**Pull request by thejohncrafter**

### CODE REVIEW

File: src/ostrowski/rationals/basic.lean [hunk 1]
```diff
@@ -0,0 +1,226 @@
...
+import data.padics
+
+open is_absolute_value
+noncomputable theory
+
+def trivial_abs : ℚ → ℝ := λ a,
+    if a = 0 then 0
+    else 1
+
+instance : is_absolute_value trivial_abs :=
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/basic.lean:19]: cé pa très zoli
mébon
cé du legacy code

File: src/ostrowski/rationals/basic.lean [hunk 2]
```diff
@@ -0,0 +1,226 @@
...
+{ abv_nonneg := λ x, begin rw [trivial_abs], dsimp, split_ifs, exact le_refl 0, exact zero_le_one, end,
+  abv_eq_zero := λ x, begin rw [trivial_abs], dsimp, split, contrapose!, intro, rw if_neg ᾰ, norm_num, intro, rw if_pos ᾰ, end,
+  abv_add := λ x y, begin rw [trivial_abs], dsimp, split_ifs, any_goals { linarith,}, exfalso, rw [h_1,h_2] at h, simpa using h, end,
+  abv_mul := λ x y, begin rw [trivial_abs], dsimp, split_ifs, any_goals {norm_num}, finish, finish, finish, finish, end }
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/basic.lean]: FINISH, FINISH, FINISH, FINISH

File: src/ostrowski/rationals/basic.lean [hunk 3]
```diff
@@ -0,0 +1,226 @@
...
+    exact h₂,
+  },
+  {
+    intros a p _ hp ha,
+    exact h p a hp ha,
+  },
+end
+
+-- Integer values of a morphism `φ` and its value on `-1` completely determines `φ`
+theorem mul_mor_eq_of_eq_on_pnat (φ₁ φ₂: monoid_with_zero_hom ℚ ℝ)
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/basic.lean]: should go in `for_mathlib/hom.lean` or something like that

File: src/ostrowski/rationals/basic.lean [hunk 4]
```diff
@@ -0,0 +1,226 @@
...
+theorem Γ₀_map_inv {G₁ G₂: Type} [group_with_zero G₁] [group_with_zero G₂]
+  (φ: monoid_with_zero_hom G₁ G₂) (a: G₁) (a_ne_zero: a ≠ 0): φ a⁻¹ = (φ a)⁻¹ :=
+begin
+  apply eq_inv_of_mul_left_eq_one,
+  rw ← monoid_with_zero_hom.map_mul,
+  rw inv_mul_cancel a_ne_zero,
+  rw monoid_with_zero_hom.map_one,
+end
+
+lemma induction_on_primes [P: nat → Prop] (h₁: P 0) (h₂: P 1)
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/basic.lean]: hm, I feel like it should go into `for_mathlib/nat_primes.lean` imho

File: src/ostrowski/rationals/basic.lean [hunk 5]
```diff
@@ -0,0 +1,226 @@
...
+    },
+    map_mul' := by {
+      intros x y,
+      rw abv_mul abv,
+      rw real.mul_rpow (abv_nonneg abv x) (abv_nonneg abv y),
+    },
+  }
+
+-- Deserves its place in matlib, as `monoid_with_zero_hom.map_inv`
+theorem Γ₀_map_inv {G₁ G₂: Type} [group_with_zero G₁] [group_with_zero G₂]
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/basic.lean]: should go in `for_mathlib/hom.lean`

File: src/ostrowski/rationals/basic.lean [hunk 6]
```diff
@@ -0,0 +1,226 @@
...
+rw rat.mk_nat,
+rw dif_neg,
+rw rat.mk_pnat,
+{
+  simp [x_cop.gcd_eq_one],
+},
+exact ne_of_gt x_pos,
+end
+
+def hom_of_abv {α} [linear_ordered_field α] {β} [ring β] [nontrivial β]
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/basic.lean:66]: hm why nontrivial is needed, is that a condition imposed by hom?

Comment (RaitoBezarius) [reply src/ostrowski/rationals/basic.lean:66]: same for ring, is it needed? wouldn't semiring be enough?

File: src/ostrowski/rationals/basic.lean (hunk 3 above)
Comment (RaitoBezarius) [inline src/ostrowski/rationals/basic.lean]: I'd also rename it into `ext_hom_pnat` or something like that as this is an extensional theorem in fact, right?

File: src/ostrowski/rationals/basic.lean [hunk 7]
```diff
@@ -0,0 +1,226 @@
...
+begin
+  have: ∀ n: ℕ, (abv n) ^ α = abv' n,
+  {
+    have inductive_step: ∀ q a: ℕ, prime q → (abv a) ^ α = abv' a
+      → (abv (q * a: ℕ)) ^ α = abv' ((q * a): ℕ),
+    {
+      intros q a q_prime a_norms_eq,
+      calc (abv (q * a: ℕ)) ^ α
+        = abv (q*a: ℕ) ^ α
+          : by { refl }
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/basic.lean]: `by { refl }` := `by refl` := `rfl`

File: src/ostrowski/rationals/basic.lean [hunk 8]
```diff
@@ -0,0 +1,226 @@
...
+        ... = ((abv q) * (abv a)) ^ α
+          : by { push_cast, rw abv_mul abv, }
+        ... = (abv q) ^ α * (abv a) ^ α
+          : by { rw real.mul_rpow (abv_nonneg abv q) (abv_nonneg abv a), }
+        ... = (abv' q) * (abv' a)
+          : by { rw [h q q_prime, a_norms_eq], }
+        ... = abv' (q * a)
+          : by { rw ← abv_mul abv', }
+        ... = abv' ((q * a): ℕ)
+          : by { norm_cast, },
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/basic.lean]: useless trailing comma and brackets here

File: src/ostrowski/rationals/basic.lean [hunk 9]
```diff
@@ -0,0 +1,226 @@
...
+        = abv (q*a: ℕ) ^ α
+          : by { refl }
+        ... = ((abv q) * (abv a)) ^ α
+          : by { push_cast, rw abv_mul abv, }
+        ... = (abv q) ^ α * (abv a) ^ α
+          : by { rw real.mul_rpow (abv_nonneg abv q) (abv_nonneg abv a), }
+        ... = (abv' q) * (abv' a)
+          : by { rw [h q q_prime, a_norms_eq], }
+        ... = abv' (q * a)
+          : by { rw ← abv_mul abv', }
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/basic.lean]: you could merge the next step using rw_mod_cast

File: src/ostrowski/rationals/basic.lean [hunk 10]
```diff
@@ -0,0 +1,226 @@
...
+        ... = abv' ((q * a): ℕ)
+          : by { norm_cast, },
+    },
+    apply induction_on_primes,
+    {
+      norm_cast,
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/basic.lean:172]: seems like you're applying norm_cast anyway, can you apply it before or use all_goals ?

File: src/ostrowski/rationals/basic.lean [hunk 11]
```diff
@@ -0,0 +1,226 @@
...
+  have same_on_neg_one: equiv_hom (-1) = abv'_hom (-1),
+  {
+    rw [← abv_eq_hom_fn, ← equiv_abs_eq_hom_fn],
+    simp,
+    rw [abv_neg abv, abv_neg abv'],
+    rw [abv_one abv, abv_one abv'],
+    rw real.one_rpow,
+  },
+  apply mul_mor_eq_of_eq_on_pnat equiv_hom abv'_hom same_on_neg_one,
+
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/basic.lean:198]: kill this line

File: src/ostrowski/rationals/bounded.lean [hunk 12]
```diff
@@ -0,0 +1,364 @@
+
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean:1]: kill this line

File: src/ostrowski/rationals/bounded.lean [hunk 13]
```diff
@@ -0,0 +1,364 @@
...
+import analysis.special_functions.exp_log
+import analysis.special_functions.pow
+import data.real.cau_seq
+
+import ostrowski.rationals.basic
+import abvs_equiv
+
+open list is_absolute_value
+
+lemma prime_norm_lt_one_of_bounded_padic (abv : ℚ → ℝ) [habv : is_absolute_value abv]
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean]: hm where is the norm :p?
more like exists_abv_prime_lt_one?

File: src/ostrowski/rationals/bounded.lean [hunk 14]
```diff
@@ -0,0 +1,364 @@
...
+      (hnontriv: abv ≠ trivial_abs)
+      (all_nat_le_one: (∀ z : ℕ, abv z ≤ 1)):
+      ∃ p: ℕ, prime p ∧ abv p < 1 :=
+begin
+  by_contra,
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean:17]: the next step can be merged by just adding !: by_contra!

Comment (RaitoBezarius) [reply src/ostrowski/rationals/bounded.lean:17]: (no joke)

File: src/ostrowski/rationals/bounded.lean [hunk 15]
```diff
@@ -0,0 +1,364 @@
...
+    { by linarith [h p p_prime, all_nat_le_one p], },
+    rw abvp_eq_one,
+    have a_ne_zero: a ≠ 0,
+    { by_contra h, push_neg at h, apply hprod, simp [h], },
+    rw ha a_ne_zero,
+    simp,
+  },
+end
+
+lemma padic_norm_q (p: ℕ) (q: ℕ) (p_prime: prime p) (q_prime: prime q):
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean:68]: I'm quite shocked this thing is not a fundamental lemma of mathlib or something easily derivable
(1) Are you sure it is not there under an obscure name?
(2) I would suggest to split this into two lemmas corresponding to the two branches of the and
(3) I would suggest to put them into a for_mathlib file for padics

Comment (RaitoBezarius) [reply src/ostrowski/rationals/bounded.lean:68]: (getting the full theorem back is quite easy by and.intro, though the branches have nothing to do together in general)

File: src/ostrowski/rationals/bounded.lean [hunk 16]
```diff
@@ -0,0 +1,364 @@
...
+  },
+end
+
+lemma abs_val_bounded_q (abv : ℚ → ℝ) [habv : is_absolute_value abv]
+  (all_nat_le_one: (∀ z : ℕ, abv z ≤ 1))
+  (p: ℕ) (p_prime: prime p) (abvp_lt_one: abv p < 1):
+  ∃ α: ℝ, 0 < α ∧ ∀ q: ℕ, prime q →
+    (p = q → abv q = (1/p) ^ α) ∧ (p ≠ q → abv q = 1 ^ α) :=
+begin
+  -- We set `α` such that it Just Works™
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean:82]: I like it

File: src/ostrowski/rationals/bounded.lean [hunk 17]
```diff
@@ -0,0 +1,364 @@
...
+  set α := - real.log (abv p) / real.log p with α_def,
+  have zero_lt_α: 0 < α,
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean]: cé koi ce bordel

File: src/ostrowski/rationals/bounded.lean [hunk 18]
```diff
@@ -0,0 +1,364 @@
...
+    unfold padic_norm,
+    rw p,
+    simp [q_prime.1],
+  },
+end
+
+lemma abs_val_bounded_q (abv : ℚ → ℝ) [habv : is_absolute_value abv]
+  (all_nat_le_one: (∀ z : ℕ, abv z ≤ 1))
+  (p: ℕ) (p_prime: prime p) (abvp_lt_one: abv p < 1):
+  ∃ α: ℝ, 0 < α ∧ ∀ q: ℕ, prime q →
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean:79]: split the conclusion into two lemmas, and generate aux lemmas for preliminaries before the actual use

File: src/ostrowski/rationals/bounded.lean [hunk 19]
```diff
@@ -0,0 +1,364 @@
...
+      apply le_antisymm,
+      rw ← real.log_le_log p₁ p₂,
+      exact le_of_eq h,
+      rw ← real.log_le_log p₂ p₁,
+      exact le_of_eq (eq.symm h),
+    },
+    have one_lt_p: 1 < p,
+    from (nat.prime.one_lt ∘ nat.prime_iff_prime.2) p_prime,
+    calc real.log (abv p) = real.log (abv p) * 1
+        : by ring
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean]: cheater, you can just use rw mul_one

File: src/ostrowski/rationals/bounded.lean [hunk 20]
```diff
@@ -0,0 +1,364 @@
...
+      ... = real.log (abv p) * (real.log p / real.log p)
+        : by { rw div_self, symmetry, apply ne_of_lt ∘ real.log_pos,
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean]: symmetry, apply ne_of_lt circ real.log_pos is exactly apply eq.symm (ne_of_lt circ real.log_pos) I believe
not necessarily something good to change, it might not be worth the effort

it would be better though if you could factor out the requirements of each rhs and put them in a have before the calc phase which is a bit hardcore of course

therefore, the rhs would be deadsimple applications and minimal tactics

File: src/ostrowski/rationals/bounded.lean [hunk 21]
```diff
@@ -0,0 +1,364 @@
...
+        : by ring
+      ... = real.log (p^(-α))     : by rw α_def
+      ... = real.log (p^(-1 * α)) : by ring
+      ... = real.log ((p ^ (-1: ℝ)) ^ α)
+        : by { congr' 1, exact real.rpow_mul (le_of_lt zero_lt_p) (-1) α, }
+      ... = real.log (((p ^ (1: ℝ))⁻¹) ^ α)
+        : by { congr' 2, exact real.rpow_neg (le_of_lt zero_lt_p) 1, }
+      ... = real.log ((p⁻¹) ^ α)
+        : by { congr' 3, exact real.rpow_one p, }
+      ... = real.log ((1/p) ^ α)  : by simp,
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean:147]: i gave up reading the rest, but I congratulate you for your courage

Comment (RaitoBezarius) [reply src/ostrowski/rationals/bounded.lean:147]: (actually, I will check out if there is an easier way to do your calc block, but some other day and not this precise one)

File: src/ostrowski/rationals/bounded.lean [hunk 22]
```diff
@@ -0,0 +1,364 @@
...
+    rw real.one_rpow α,
+
+    -- We reason by contradiction. Our hypothesis becomes `abv q < 1`.
+    by_contradiction h',
+    have abvq_lt_one: abv q < 1,
+    from lt_iff_le_and_ne.2 ⟨ (all_nat_le_one q), h' ⟩,
+    -- We find `N` such that `(abv p) ^ N, (abv q) ^ N < 1/2`.
+    obtain ⟨ n, abvpn_lt_half, abvqn_lt_half ⟩: ∃ n: ℕ, ((abv p)^n < 1/2) ∧ ((abv q)^n < 1/2),
+    {
+      have geom_tendsto_zero: ∀ r: ℝ, (0 ≤ r) → (r < 1) →
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean:160]: are you sure this is not in mathlib in a "straightforward" way :>

File: src/ostrowski/rationals/bounded.lean [hunk 23]
```diff
@@ -0,0 +1,364 @@
...
+        specialize p (1/2) (by linarith),
+        rcases p with ⟨ N, hN ⟩,
+        use N,
+        intros n hn,
+        specialize hN n hn,
+        calc r^n = r^n - 0                 : by simp
+          ... ≤ max (r^n - 0) (-(r^n - 0)) : le_max_left _ _
+          ... < 1/2 : hN,
+      },
+      obtain ⟨ N₁, pN₁ ⟩: ∃ N: ℕ, ∀ n ≥ N, (abv p)^n < 1/2,
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean:176]: actually there is a magic lemma to get your conclusion in mathlib, i will refind tomorrow

File: src/ostrowski/rationals/bounded.lean [hunk 24]
```diff
@@ -0,0 +1,364 @@
...
+      obtain ⟨ N₂, pN₂ ⟩: ∃ N: ℕ, ∀ n ≥ N, (abv q)^n < 1/2,
+      { exact geom_tendsto_zero (abv q) (abv_nonneg abv q) abvq_lt_one },
+      use max N₁ N₂,
+      exact ⟨
+        pN₁ (max N₁ N₂) (by linarith only [le_max_left N₁ N₂]),
+        pN₂ (max N₁ N₂) (by linarith only [le_max_right N₁ N₂])
+      ⟩,
+    },
+    -- We use Bézout to find `u`, `v` such that `1 = u * p^n + v * q^n`.
+    obtain ⟨ u, v, bezout ⟩: ∃ u: ℤ, ∃ v: ℤ, 1 = u * p^n + v * q^n,
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean:187]: pardonnez mais c'est pas un algorithme le lemme chinois

Comment (RaitoBezarius) [reply src/ostrowski/rationals/bounded.lean:187]: decidability check: give decision procedure or take -1

File: src/ostrowski/rationals/bounded.lean [hunk 25]
```diff
@@ -0,0 +1,364 @@
...
+        norm_cast,
+        rw ← abs_of_nonpos h,
+        rw int.abs_eq_nat_abs,
+        exact all_nat_le_one _,
+      }
+    },
+    have abv_bezout_lt_one: abv (u * p^n + v * q^n) < 1,
+    {
+      -- Is there a way to simplify this ?
+      -- (Of course these two properties could be gathered in one function...)
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean:216]: i guess linarith should be able to do it
but i am not really friend with linarith yet

File: src/ostrowski/rationals/bounded.lean [hunk 26]
```diff
@@ -0,0 +1,364 @@
...
+      calc abv (u * p^n + v * q^n)
+        ≤ abv (u * p^n) + abv (v * q^n) : abv_add abv _ _
+        ... = abv u * abv (p^n) + abv v * abv (q^n) : by { congr; rw abv_mul abv _ _, }
+        ... = abv u * abv p ^ n + abv v * abv q ^ n : by { congr; rw abv_pow abv _ _, }
+        ... ≤ 1 * abv p ^ n + 1 * abv q ^ n         : add_le_add p₁ p₂
+        ... = abv p ^ n + abv q ^ n                 : by ring
+        ... < 1/2 + 1/2                             : add_lt_add abvpn_lt_half abvqn_lt_half
+        ... = 1                                     : by ring,
+    },
+    have absurd: (1: ℝ) < 1,
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean:235]: the climax

File: src/ostrowski/rationals/bounded.lean [hunk 27]
```diff
@@ -0,0 +1,364 @@
...
+    {
+      calc 1 = abv (1: ℤ)             : eq.symm (abv_one abv)
+        ... = abv (u * p^n + v * q^n) : by { rw bezout, norm_cast, }
+        ... < 1                       : abv_bezout_lt_one,
+    },
+    linarith only [absurd],
```
Comment (RaitoBezarius) [inline src/ostrowski/rationals/bounded.lean:241]: mood: https://www.youtube.com/watch?v=m3EHCTP3jic

**Review by RaitoBezarius — CHANGES_REQUESTED** [review]
Some small cleanup before merge and we're good, I'm not going to ask everything though
This is mostly to have a sane codebase whenever I look back to what is this thing

File: src/ostrowski/rationals/basic.lean (hunk 3 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/basic.lean]: It should even be generalized to a larger class of rings. Then it will be mathlib-worthy.

File: src/ostrowski/rationals/basic.lean (hunk 6 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/basic.lean:66]: Both are required by `is_absolute_value.abv_one`

Comment (thejohncrafter) [reply src/ostrowski/rationals/basic.lean:66]: This could be generalized, but I do not really see any point in letting `β` be trivial as long as this lemma does not go into mathblib.

File: src/ostrowski/rationals/basic.lean (hunk 9 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/basic.lean]: Did not work :/
Used `rw ..., norm_cast` instead, won two lines.

File: src/ostrowski/rationals/basic.lean (hunk 10 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/basic.lean:172]: Did not work :/

File: src/ostrowski/rationals/basic.lean (hunk 11 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/basic.lean:198]: I like this line :'(
Actually, it has a reason to exist : the final `exact` is disconnected from what precedes (which is a block that should actually be rewritten by properly using typeclasses).

File: src/ostrowski/rationals/bounded.lean (hunk 12 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/bounded.lean:1]: It is present in Linux, therefore it should be present here

File: src/ostrowski/rationals/bounded.lean (hunk 15 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/bounded.lean:68]: I extracted a lemma and put it in `for_mathlib`.
I still keep this lemma `padic_norm_q` as it handles the interface between `prime` and `nat.prime`.

File: src/ostrowski/rationals/bounded.lean (hunk 17 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/bounded.lean]: Résolu en local, g pa push déso mdrr

File: src/ostrowski/rationals/bounded.lean (hunk 18 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/bounded.lean:79]: Actually I plan on greatly simplifying this proof, but it will require some valuation theory so I leave it as it is for now.

File: src/ostrowski/rationals/bounded.lean (hunk 20 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/bounded.lean]: Done.

File: src/ostrowski/rationals/bounded.lean (hunk 22 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/bounded.lean:160]: I searched but I couldn't find. I might have not searched well enough thought.

File: src/ostrowski/rationals/bounded.lean (hunk 25 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/bounded.lean:216]: I tried `linarith` and `nlinarith` without success.

File: src/ostrowski/rationals/bounded.lean (hunk 14 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/bounded.lean:17]: It's actually `contrapose!`.

Comment (thejohncrafter) [reply src/ostrowski/rationals/bounded.lean:17]: (I would have liked to have `by_contra!`, should we open an issue in mathlib ?

File: src/ostrowski/rationals/basic.lean (hunk 1 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/basic.lean:19]: Ce sera résolu quand on aura de la théorie jolie haha

File: src/ostrowski/rationals/basic.lean (hunk 4 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/basic.lean:100]: It should be extended to a larger class of rings. This is not mathlib-worthy for now.

File: src/ostrowski/rationals/bounded.lean (hunk 23 above)
Comment (thejohncrafter) [reply src/ostrowski/rationals/bounded.lean:176]: Did you find it or do we let this as it is for now ?
Anyway this proof will be completely changed, so actively searching a better lemma is a waste of time...

Comment (thejohncrafter) [reply src/ostrowski/rationals/bounded.lean:176]: As this proof is going to go away, let's close this.
